US04864021
In 50 ml of dioxane was dissolved 10 g of 2'-deoxy-5'-O-trityl-5-fluorouridine. To the solution were added 2.9 ml of benzyl bromide and 14.6 g of particles of potassium hydroxide. The mixture was stirred at room temperature for 1 hour. Thereto was added 40 ml of water. The mixture was adjusted to a pH of about 3 to about 4 and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The sodium sulfate was separated by filtration and the solvent was distilled off, giving as an intermediate 16.0 g of 2'-deoxy-3'-O-benzyl-5'-O-trityl-5-fluorouridine.

reactant | 2'-deoxy-5'-O-trityl-5-fluorouridine | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C28H25FN2O5
reactant | benzyl bromide | 2.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 40 ml | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-3'-O-benzyl-5'-O-trityl-5-fluorouridine | 16.0 g, yield of 75.7% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)F | C35H31FN2O5
